US08492549B2
2-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)decahydroisoquinoline
The above described 2-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline (195 mg, 0.68 mmol) was hydrogenated in MeOH (20 ml) under normal pressure (12 h, 50° C.) to give the crude title compound, which was purified by flash chromatography (heptane/EtOAc).

reactant | 2-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | 0.68 mmol, 195 mg | O1C(COC2=C1C=CC=C2)CN2CC=1CCCCC1CC2 | C18H23NO2
solvent | MeOH | 20 ml | CO | CH4O
product | 2-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)decahydroisoquinoline | O1C(COC2=C1C=CC=C2)CN2CC1CCCCC1CC2 | C18H25NO2
